US05635510
2.1 Synthesis of [3-(3,4-dichloro-phenyl)-1-(2,4-dimethoxy-benzoyl)-3-(2-hydroxy-ethyl)-pyrrolidine (No.027F108)
3-(3,4-Dichloro-phenyl)-3-(2-hydroxy-ethyl)-pyrrolidine (288 mg, 1.1 mmol) was dissolved in dichloromethane (3 mL) at -78° C. and treated with 4-methylmorpholine (0.25 mL, 2.27 mmol, 2.eq.) and 2,4-dimethoxy-benzoyl chloride (220 mg, 1.1 mmol, 1 eq.) dissolved in 3 mL of dichloromethane. The solution was allowed to warm to 0° C. and stirred for 1 hour. The solution was washed with 1N HCl, and 5% sodium bicarbonate. The organic phase was dried over magnesium sulfate, filtered, and concentrated in vacuo. The residue was chromatographed on silica gel (30 g) with a gradient of 50% ethyl acetate in hexane to 6% methanol in dichloromethane to give 324 mg (69%) of the title compound.

reactant | 3-(3,4-Dichloro-phenyl)-3-(2-hydroxy-ethyl)-pyrrolidine | 1.1 mmol, 288 mg | ClC=1C=C(C=CC1Cl)C1(CNCC1)CCO | C12H15Cl2NO
reactant | 4-methylmorpholine | 2.27 mmol, 0.25 mL | CN1CCOCC1 | C5H11NO
reactant | 2,4-dimethoxy-benzoyl chloride | 1.1 mmol, 220 mg, 1 eq. | COC1=C(C(=O)Cl)C=CC(=C1)OC | C9H9ClO3
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 3-(3,4-dichloro-phenyl)-1-(2,4-dimethoxy-benzoyl)-3-(2-hydroxy-ethyl)-pyrrolidine | 324 mg, 69% | ClC=1C=C(C=CC1Cl)C1(CN(CC1)C(C1=C(C=C(C=C1)OC)OC)=O)CCO | C21H23Cl2NO4
